### PR TITLE
[Merged by Bors] - feat(Combinatorics/Enumerative/Bell): number of ways of partitioning a set into subsets of given cardinalities

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
* `Multiset.bell m` is the number of possibilities of dividing a set with `m.sum` elements into disjoint subsets with cardinalities indicated by `m`.
* `Nat.uniformBell m n` is `Multiset.bell (replicate m n)`, the number of possibilities of dividing a set with `m * n` elements into `m` groups of `n`-element subsets

These integers are defined as finite products of integers.

* `Multiset.bell_eq` shows that it equals some expression involving fractions of factorials, `Multiset.bell_mul_eq` shows the equivalent formula without division.

* `Nat.uniformBell_eq` shows that it equals `(m * n).factorial / (m.factorial * n.factorial ^ m)`
and `Nat.uniformBell_mul_factorial_mul_pow_factorial` establishes the equality
  `mchoose m n * m.factorial * n.factorial ^ m = (m * n).factorial`.

* `Nat.choose_mul_add` and `Nat.choose_mul_right` are lemmas for `Nat.choose`
that couldn't lie in `Mathlib.Data.Nat.Choose.Basic` because their proof uses the `ring` tactic.

Co-authored with [María Inés de Frutos-Fernández](https://github.com/mariainesdff) 

TODO : solve the enumerative problem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Mchoose.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+  by_cases hm : m = 0
+  · simp only [hm, zero_mul, choose_eq_zero_iff]
+    exact Nat.pos_of_ne_zero hn
+  · set p := m - 1; have hp : m = p + 1 := (succ_pred_eq_of_ne_zero hm).symm
+    simp only [hp]
+    rw [add_mul, one_mul, choose_mul_add _ hn]
+
+/-- Number of possibilities of dividing a set with `m * n` elements into `m` groups
+of `n`-element subsets. -/
+def mchoose (m n : ℕ) : ℕ :=
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Choose/Mchoose.lean:57]: Is this different from `Nat.multichoose`?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mchoose.lean:57]: This has nothing to do. Maybe we should find a better name. It is a particular case of the following concept : given a finite set s and a partition p = (p_1,...,p_k) of Card(s), how many (unordered) partitions of the set are there such that its members have sizes p_1,...,p_k. Here we take s of cardinality n * m and p = (n,...,n).

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mchoose.lean:67]: (I would likely call them restricted Bell numbers, but that does not seem to be the accepted terminology.)
A definition (using a division) is 
```quote
def rBell (m : Multiset ℕ) :=  (m.sum)! / ((m.map fun n ↦ n !).prod * (∏ n in m.toFinset, (m.count n)!))
```
and then, one has
```
mchoose m n = rBell (Multiset.replicate m n)
```

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mchoose.lean:67]: (I have formalized that this works, but this is clearly off topic, and, unfortunately uses the properties of that PR. The difficulty is to prove that the denominator divides the numerator.)

Comment (eric-wieser) [reply Mathlib/Data/Nat/Choose/Mchoose.lean:53]: To be clear, my comment was primarily "we either need a better name, or documentation to help disambiguate the names, or both". I agree that this is not the same thing!

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mchoose.lean]: Now we have `Multiset.bell` and `Nat.uniformBell`.

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 2]
```diff
@@ -0,0 +1,217 @@
...
+    exact Nat.pos_of_ne_zero hn
+  · set p := m - 1; have hp : m = p + 1 := (succ_pred_eq_of_ne_zero hm).symm
+    simp only [hp]
+    rw [add_mul, one_mul, choose_mul_add _ hn]
+
+namespace Multiset
+
+/-- Number of partitions of a set of cardinality `m.sum` 
+whose parts have cardinalities given by `m` -/
+def bell (m : Multiset ℕ) : ℕ :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]: I'm now realizing that #16647 is relevant here. No action needed in this PR though.

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+
+* `Multiset.bell_mul_eq` shows that
+    `m.bell * (m.map (fun j ↦ j !)).prod *
+      Finset.prod (m.toFinset.erase 0) (fun j ↦ (m.count j)!) = m.sum !`
+
+* `Nat.uniformBell_mul_eq`  shows that
+    `uniformBell m n * n.factorial ^ m * m.factorial = (m * n).factorial`
+
+* `Nat.uniformBell_zero`, `Nat.uniformBell_zero'`, `Nat.uniformBell_one`, `Nat.uniformBell_one':
+compute `Nat.uniformBell` when one of the parameters is `0` or `1`
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:32]:
```suggestion
  compute `Nat.uniformBell` when one of the parameters is `0` or `1`
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 4]
```diff
@@ -0,0 +1,217 @@
...
+For `n : ℕ`, the `n`th Bell number is the number of partitions of a set of cardinality `n`.
+Here, we define a refinement of these numbers, that count, for any `m : Multiset ℕ`,
+the number of partitions of a set of cardinality `m.sum` whose parts have cardinalities
+given by `m`.
+
+The definition presents it as an integer.
+
+* `Multiset.bell`: number of partitions of a set whose parts have cardinalities a given multiset
+
+* `Multiset.bell_zero`: `Multiset.bell 0 = 1`
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:20]: I'm not super convinced very basic lemmas like `bell_zero` need mentioning in the module doc. They can already efficiently be found through the symbol-reading convention.

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 5]
```diff
@@ -0,0 +1,217 @@
...
+    _ = (m + 1) * (m * (p + 1) + p).choose p * ((m * (p + 1))! * (p + 1)!) := by ring
+
+theorem Nat.choose_mul_right (m) {n : ℕ} (hn : n ≠ 0) :
+    (m * n).choose n = m * (m * n - 1).choose (n - 1) := by
+  by_cases hm : m = 0
+  · simp only [hm, zero_mul, choose_eq_zero_iff]
+    exact Nat.pos_of_ne_zero hn
+  · set p := m - 1; have hp : m = p + 1 := (succ_pred_eq_of_ne_zero hm).symm
+    simp only [hp]
+    rw [add_mul, one_mul, choose_mul_add _ hn]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:71]: Can these move to an earlier file?

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 6]
```diff
@@ -0,0 +1,217 @@
...
+
+namespace Multiset
+
+/-- Number of partitions of a set of cardinality `m.sum`
+whose parts have cardinalities given by `m` -/
+def bell (m : Multiset ℕ) : ℕ :=
+  Nat.multinomial m.toFinset (fun k ↦ k * m.count k) *
+    (m.toFinset.erase 0).prod
+      (fun k ↦ Finset.prod (Finset.range (m.count k)) fun j ↦ (j * k + k - 1).choose (k-1))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:80]:
```suggestion
    ∏ k ∈ m.toFinset.erase 0, ∏ j ∈ .range (m.count k), (j * k + k - 1).choose (k - 1)
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 7]
```diff
@@ -0,0 +1,217 @@
...
+
+@[simp]
+theorem bell_zero : bell 0 = 1 := by unfold bell; simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:83]: I kind of suspect this is refl
```suggestion
theorem bell_zero : bell 0 = 1 := rfl
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 8]
```diff
@@ -0,0 +1,217 @@
...
+      rw [← Nat.choose_mul_add c hx]
+      rw [mul_comm c x]
+      rw [Nat.add_choose_mul_factorial_mul_factorial (x * c) x]
+      rw [mul_add, mul_one]
+    rw [factorial_succ, pow_succ]
+    ring_nf
+
+theorem bell_mul_eq (m : Multiset ℕ) :
+    m.bell * (m.map (fun j ↦ j !)).prod *
+      Finset.prod (m.toFinset.erase 0) (fun j ↦ (m.count j)!) = m.sum ! := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:114]: Similarly here and below, can you use the `∏ _ ∈ _, _` notation?

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 9]
```diff
@@ -0,0 +1,217 @@
...
+  · by_cases hn : n = 0
+    · simp [hn]
+    · rw [show ({n} : Finset ℕ).erase 0 = {n} by simp [Ne.symm hn]]
+      simp [count_replicate]
+
+theorem uniformBell_zero (n : ℕ) : uniformBell 0 n = 1 := by
+  simp [uniformBell_eq]
+
+theorem uniformBell_zero' (m : ℕ) : uniformBell m 0 = 1 := by
+  simp [uniformBell_eq]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:184]: Can these be
```suggestion
theorem uniformBell_zero_left (n : ℕ) : uniformBell 0 n = 1 := by
  simp [uniformBell_eq]

theorem uniformBell_zero_right (m : ℕ) : uniformBell m 0 = 1 := by
  simp [uniformBell_eq]
```
and same below?

File: Mathlib/Data/Finset/Basic.lean [hunk 10]
```diff
@@ -3026,6 +3026,13 @@ theorem disjoint_toFinset {m1 m2 : Multiset α} :
     rw [Multiset.mem_toFinset] at ha hb
     exact h ha hb
 
+@[simp]
+lemma replicate_toFinset (n : ℕ) (a : α) :
+    (replicate n a).toFinset = if n = 0 then ∅ else {a} := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:3031]:
```suggestion
lemma toFinset_replicate (n : ℕ) (a : α) :
    (replicate n a).toFinset = if n = 0 then ∅ else {a} := by
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 11]
```diff
@@ -0,0 +1,217 @@
...
+  · simp only [replicate_toFinset]
+    split_ifs with hm
+    · rw [hm, factorial_zero, eq_comm]
+      rw [show (∅ : Finset ℕ).erase 0 = ∅ from rfl,  Finset.prod_empty]
+    · rw [show ({n} : Finset ℕ).erase 0 = {n} by simp [Ne.symm hn]]
+      simp only [Finset.prod_singleton, count_replicate_self]
+  · simp
+
+theorem uniformBell_eq_div (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
+    uniformBell m n = (m * n).factorial / (n.factorial ^ m * m.factorial) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:211]:
```suggestion
    uniformBell m n = (m * n) ! / (n ! ^ m * m !) := by
```
and above as well

**Review by YaelDillies — COMMENTED** [review]
Nice work! Can you merge master? The primed lemma names are now linted against

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean:71]: I remember I had tried, but that the use of the tactic calc was not possible in the file that defined `Nat.Choose`. I'll check again.

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: Done for the third factor (the `Finset.prod`), is there a notation for Multiset.prop?

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean:66]: Another issue is that I would have to import Mathlib.Algebra.GroupWithZero.Defs

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: That one could be OK, actually, this is `ring` which is missing. If I import `Tactic.Ring.RingNF`, that works.

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: That was eventually not possible, so I added a new file.

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 12]
```diff
@@ -0,0 +1,184 @@
...
+    ∏ k ∈ m.toFinset.erase 0, ∏ j ∈ .range (m.count k), (j * k + k - 1).choose (k - 1)
+
+@[simp]
+theorem bell_zero : bell 0 = 1 := rfl
+
+private theorem bell_mul_eq_lemma {x : ℕ} (hx : x ≠ 0) (c : ℕ) :
+    x ! ^ c * c ! * ∏ j ∈ Finset.range c, (j * x + x - 1).choose (x - 1) = (x * c)! := by
+  induction c with
+  | zero => simp
+  | succ c hrec =>
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:56]: You can use pattern-matching here
```suggestion
private theorem bell_mul_eq_lemma {x : ℕ} (hx : x ≠ 0) :
    ∀ c, x ! ^ c * c ! * ∏ j ∈ Finset.range c, (j * x + x - 1).choose (x - 1) = (x * c)!
  | 0 => by simp
  | c + 1 =>
```

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 13]
```diff
@@ -0,0 +1,184 @@
...
+      have : (x * c)! * ((c * x + x - 1).choose (x - 1)) * x ! * (c + 1)
+        = ((c + 1) * ((c * x + x - 1).choose (x - 1))) * (x * c)! *  x ! := by
+        ring_nf
+      rw [this]
+      rw [← Nat.choose_mul_add c hx]
+      rw [mul_comm c x]
+      rw [Nat.add_choose_mul_factorial_mul_factorial (x * c) x]
+      rw [mul_add, mul_one]
+    rw [factorial_succ, pow_succ]
+    ring_nf
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:77]: This looks like a good candidate for a `calc` proof. Do you mind trying?

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 14]
```diff
@@ -0,0 +1,184 @@
...
+
+theorem bell_mul_eq (m : Multiset ℕ) :
+    m.bell * (m.map (fun j ↦ j !)).prod *
+    ∏ j ∈ (m.toFinset.erase 0), (m.count j)! = m.sum ! := by
+  unfold bell
+  rw [← Nat.mul_right_inj]
+  · simp only [← mul_assoc]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:84]:
```suggestion
  rw [← Nat.mul_right_inj (by positivity)]
  simp only [← mul_assoc]
```
and everything below unindented

File: Mathlib/Data/Finset/Basic.lean [hunk 15]
```diff
@@ -3116,6 +3116,13 @@ theorem disjoint_toFinset {m1 m2 : Multiset α} :
     _root_.Disjoint m1.toFinset m2.toFinset ↔ Disjoint m1 m2 := by
   simp [disjoint_left, Finset.disjoint_left]
 
+@[simp]
+lemma toFinset_replicate (n : ℕ) (a : α) :
+    (replicate n a).toFinset = if n = 0 then ∅ else {a} := by
+  ext x
+  simp only [mem_toFinset, Finset.mem_singleton, mem_replicate]
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Basic.lean:3123]:
```suggestion
```

File: Mathlib/Data/Nat/Choose/Mul.lean [hunk 16]
```diff
@@ -0,0 +1,48 @@
...
+theorem choose_mul_right (m) {n : ℕ} (hn : n ≠ 0) :
+    (m * n).choose n = m * (m * n - 1).choose (n - 1) := by
+  by_cases hm : m = 0
+  · simp only [hm, zero_mul, choose_eq_zero_iff]
+    exact Nat.pos_of_ne_zero hn
+  · set p := m - 1; have hp : m = p + 1 := (succ_pred_eq_of_ne_zero hm).symm
+    simp only [hp]
+    rw [add_mul, one_mul, choose_mul_add _ hn]
+
+
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Choose/Mul.lean:47]:
```suggestion
```

File: Mathlib/Data/Nat/Choose/Mul.lean [hunk 17]
```diff
@@ -0,0 +1,48 @@
...
+/-! # Two lemmas on choose
+
+The proofs of these lemmas use the `ring` tactic
+and can't be given in `Mathlib.Data.Nat.Choose.Basic`
+
+-/
+
+namespace Nat
+
+theorem choose_mul_add (m) {n : ℕ} (hn : n ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Choose/Mul.lean:19]: I would suggest putting `hn` first since `m` will usually be inferrable from context

File: Mathlib/Data/Nat/Choose/Mul.lean [hunk 18]
```diff
@@ -0,0 +1,48 @@
...
+    _ = ((m * (p + 1) + p) + 1) * (m * (p + 1) + p)! := by rw [factorial_succ]
+    _ = (m * (p + 1) + p)! * ((p + 1) * (m + 1)) := by ring
+    _ = ((m * (p + 1) + p).choose p * (m * (p+1))! * (p)!) * ((p + 1) * (m + 1)) := by
+      rw [add_choose_mul_factorial_mul_factorial]
+    _ = (m * (p + 1) + p).choose p * (m * (p+1))! * (((p + 1) * (p)!) * (m + 1)) := by ring
+    _ = (m * (p + 1) + p).choose p * (m * (p+1))! * ((p + 1)! * (m + 1)) := by rw [factorial_succ]
+    _ = (m + 1) * (m * (p + 1) + p).choose p * ((m * (p + 1))! * (p + 1)!) := by ring
+
+theorem choose_mul_right (m) {n : ℕ} (hn : n ≠ 0) :
+    (m * n).choose n = m * (m * n - 1).choose (n - 1) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Choose/Mul.lean:39]: Same here

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 19]
```diff
@@ -0,0 +1,184 @@
...
+theorem uniformBell_one_left (n : ℕ) : uniformBell 1 n = 1 := by
+  simp only [uniformBell_eq, Finset.range_one, Finset.prod_singleton, zero_mul,
+    zero_add, choose_self]
+
+theorem uniformBell_one_right (m : ℕ) : uniformBell m 1 = 1 := by
+  simp only [uniformBell_eq, mul_one, add_tsub_cancel_right, ge_iff_le, le_refl,
+    tsub_eq_zero_of_le, choose_zero_right, Finset.prod_const_one]
+
+theorem uniformBell_mul_eq (m : ℕ) {n : ℕ} (hn : n ≠ 0) :
+    uniformBell m n * n.factorial ^ m * m.factorial = (m * n).factorial := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:166]: Can you use the factorial notation?

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 20]
```diff
@@ -0,0 +1,184 @@
...
+      rw [← Nat.choose_mul_add c hx]
+      rw [mul_comm c x]
+      rw [Nat.add_choose_mul_factorial_mul_factorial (x * c) x]
+      rw [mul_add, mul_one]
+    rw [factorial_succ, pow_succ]
+    ring_nf
+
+theorem bell_mul_eq (m : Multiset ℕ) :
+    m.bell * (m.map (fun j ↦ j !)).prod *
+    ∏ j ∈ (m.toFinset.erase 0), (m.count j)! = m.sum ! := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Bell.lean:81]:
```suggestion
    m.bell * (m.map (fun j ↦ j !)).prod * ∏ j ∈ (m.toFinset.erase 0), (m.count j)!
      = m.sum ! := by
```
or something like that?

File: Mathlib/Data/Finset/Basic.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finset/Basic.lean:3122]: I tried, this doesn't work.

File: Mathlib/Data/Nat/Choose/Mul.lean (hunk 18 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mul.lean:39]: I made the `m` argument implicit.

File: Mathlib/Data/Nat/Choose/Mul.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Choose/Mul.lean:19]: I made the `m` argument implicit. That works, and I preferred having the arguments in the same order as they appear in the formula.

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: No I can't, i need the induction hypothesis.

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: done

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Bell.lean]: done

File: Mathlib/Combinatorics/Enumerative/Bell.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Bell.lean:56]: You can 😉 The induction is simply called `bell_mul_eq_lemma` (it's a recursive call)

File: Mathlib/Data/Nat/Choose/Mul.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Choose/Mul.lean:39]: I think it's "suboptimal but okay"

**Review by YaelDillies — APPROVED** [review]
maintainer merge

apart from [that](https://github.com/leanprover-community/mathlib4/pull/15644/files#r1831728215). Thanks!

**Comment by kim-em** [comment]
bors d+

**Comment by kim-em** [comment]
Please merge after addressing @YaelDillies's final comment above.
